US07087604B2
2-(3-Isopropyl-ureido)-5-trifluoromethyl-benzoic acid
2-(tert-Butoxycarbonyl)amino-5-trifluoromethylbenzoic acid (2 g) was dissolved in DMF prior to the addition of K2CO3 (1.08 g) and allyl bromide (0.68 mL). The mixture was stirred for 18 h before EtOAc and water were added. The organic layer was washed with brine, dried, filtered, and concentrated (2.05 g). The resulting material was dissolved in CH2Cl2 (4 mL) and TFA (4 mL). After 1 h, the solution was concentrated. This material was dissolved in THF and added dropwise to a THF (50 mL) solution of trichloromethyl chloroformate (1.9 mL). After stirring for 18 h, the solution was concentrated and a THF (30 mL) solution of iso-propylamine (4.3 mL) was added. After 18 h, the solution was diluted with EtOAc and was washed with brine solution and 1N HCl. The organic layer was dried (MgSO4), filtered, and concentrated to a white solid. This solid was dissolved in CH3CN (22 mL) prior to the addition of pyrrolidine (0.41 mL) and Pd(PPh)4 (105 mg). After 18 h, the solution was diluted with EtOAc and was washed 1N HCl. The organic layer was dried (MgSO4), filtered, and concentrated to give the title compound (1.1 g) as a white solid: 1H NMR (DMSO, δ ppm, 300 mHz) 1.11 (d, 6H), 3.78 (m, 1H), 7.63 (br d, 1H), 7.81 (dd, 1H), 8.14 (d, 1H), 8.64 (d, 1H), 10.27 (s, 1H), 13.83 (br s, 1H).

reactant | 2-(tert-Butoxycarbonyl)amino-5-trifluoromethylbenzoic acid | 2 g | C(C)(C)(C)OC(=O)NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F | C13H14F3NO4
reactant | K2CO3 | 1.08 g | C(=O)([O-])[O-].[K+].[K+]
reactant | allyl bromide | 0.68 mL | C(C=C)Br | C3H5Br
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-(3-Isopropyl-ureido)-5-trifluoromethyl-benzoic acid | 1.1 g | C(C)(C)NC(NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F)=O | C12H13F3N2O3
